US04772728
170 grams (2 moles) of cyanoacetic acid, 196 grams (2 moles) of cyclohexanone, 10 grams (0.13 moles) of ammonium acetate, 24 grams (0.4 moles) of acetic acid, and 380 milliliters of benzene were combined in a 2-liter round-bottomed flask equipped with a reflux condensor and a water separator, and the mixture heated (with reflux) for 6 hours. Upon cooling, the volatile compounds were removed in vacuo, and the residue washed with water to give 360 grams (1.8 moles, 90% yield) of cyclohexylidene cyanoacetic acid. The cyanoacetic acid was distilled under a vacuum of 50 Torricellis (torr.) thereby producing 196 grams (1.6 moles, 81% yield based on cyclohexanone, or 90% yield based on cyclohexylidene cyanoacetic acid) of cyclohexenyl acetic acid nitrile, which had a boiling point of between 115°-120° C. at 50 torr. (As an alternative to distilling the cyanoacetic acid under vacuum in the lastmentioned step, another portion of the cyclohexylidene cyanoacetic acid when heated to 140°-150° C. under a vacuum of 50-70 torr. for 2.5 hours was found to be readily convertible to an impure cyclohexenyl acetic acid nitrile.)

reactant | cyanoacetic acid | 2 moles, 170 grams | C(#N)CC(=O)O | C3H3NO2
reactant | cyclohexanone | 2 moles, 196 grams | C1(CCCCC1)=O | C6H10O
reactant | acetic acid | 0.4 moles, 24 grams | C(C)(=O)O | C2H4O2
reactant | benzene | 380 milliliters | C1=CC=CC=C1 | C6H6
catalyst | ammonium acetate | 0.13 moles, 10 grams | C(C)(=O)[O-].[NH4+]
solvent | water | O | H2O
product | cyclohexylidene cyanoacetic acid | 1.8 moles, 360 grams, 90% yield | C1(CCCCC1)=C(C(=O)O)C#N | C9H11NO2
